US08541573B2
Step-5: tert-Butyl 4-(4-cyclopropylpiperazin-1-yl)-4-((2,2,2-trifluoro-acetamido)methyl)piperidine-1-carboxylate
To a solution of N-((4-(4-cyclopropylpiperazin-1-yl)piperidin-4-yl)methyl)-2,2,2-trifluoroacetamide (6.88 mmol, 1.0 equiv.) and DIPEA (1.5 equiv.) in dichloromethane (35 ml) was added Boc anhydride (8.26 mmol, 1.2 equiv.) and the reaction mixture was stirred at room temperature for 3 h. The mixture was diluted with dichloromethane, successively washed with water and brine, dried over sodium sulfate and the solvent evaporated under reduced pressure to obtain the crude product which was purified by silica gel column chromatography. Yield: 50%.

reactant | N-((4-(4-cyclopropylpiperazin-1-yl)piperidin-4-yl)methyl)-2,2,2-trifluoroacetamide | 6.88 mmol, 1.0 equiv. | C1(CC1)N1CCN(CC1)C1(CCNCC1)CNC(C(F)(F)F)=O | C15H25F3N4O
reactant | DIPEA | 1.5 equiv. | CCN(C(C)C)C(C)C | C8H19N
reactant | Boc anhydride | 8.26 mmol, 1.2 equiv. | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
product | tert-Butyl 4-(4-cyclopropylpiperazin-1-yl)-4-((2,2,2-trifluoro-acetamido)methyl)piperidine-1-carboxylate | Yield: 50% | C1(CC1)N1CCN(CC1)C1(CCN(CC1)C(=O)OC(C)(C)C)CNC(C(F)(F)F)=O | C20H33F3N4O3
